US05352684
M. 3,5-Diacetyl-1,4-dihydro-2-(6-bromohexyl)-6-methyl-4-(3-nitrophenyl)-pyridine
45 g (0.14 mol) 1-bromo-8-(3-nitrophenyl-methylene)-7,9-decanedione and 28 g (0.28 mol) 2-amino-2-penten-4-one are boiled under reflux in 300 ml methanol for 24 h. The mixture is concentrated and the residue is prepurified by chromatography with toluene/acetone=99/1. The product thus obtained is chromatographed again over silica gel with toluene/ethyl acetate=8/2The title compound is obtained as a yellow oil. Yield: 10.3 g (16%).

reactant | 1-bromo-8-(3-nitrophenyl-methylene)-7,9-decanedione | 0.14 mol, 45 g | BrCCCCCCC(C(C(C)=O)=CC1=CC(=CC=C1)[N+](=O)[O-])=O | C17H20BrNO4
reactant | 2-amino-2-penten-4-one | 0.28 mol, 28 g | NC(C)=CC(C)=O | C5H9NO
solvent | methanol | 300 ml | CO | CH4O
product | 3,5-Diacetyl-1,4-dihydro-2-(6-bromohexyl)-6-methyl-4-(3-nitrophenyl)-pyridine | C(C)(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(C)=O)C)CCCCCCBr | C22H27BrN2O4
